US07897597B2
A 50 mL solution of HCl in ethanol (4.3 M) was added to a solution of tert-butyl [2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]carbamate (8.4 g, 16.6 mmol) in ethanol (50 mL) and heated at reflux temperature for 1 hour. The reaction was cooled to ambient temperature and nitrogen was bubbled through the solution. The solvent was removed under reduced pressure and water was added to the residue. The solution was made basic and then extracted with three portions of dichloromethane. The combined organic fractions were washed with brine, dried over sodium sulfate, filtered, and concentrated to yield 6.26 g of 2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine as a brown solid.

reactant | HCl | Cl | ClH
reactant | tert-butyl [2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]carbamate | 16.6 mmol, 8.4 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)(C)NC(OC(C)(C)C)=O)COCC | C29H36N4O4
solvent | ethanol | 4.3 M | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine | 6.26 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)(C)N)COCC | C24H28N4O2
